US04311787
1-(p-carboxyphenyl)-3-methyl-4-(o-hydroxybenzylidene)-2-pyrazolin-5-one
218 g (1 mole) of 1-p-carboxyphenyl-3-methyl-2-pyrazolin-5-one were suspended in 1000 ml of acetic acid. The suspension was heated to boiling temperature and 112 g (1 mole) of salicyladehyde were added. In the resulting solution the dye started crystallizing very quickly. After 2 h of refluxing the reaction mixture was cooled to room temperature. The dye was filtered with suction and rinsed with acetone.

reactant | 1-p-carboxyphenyl-3-methyl-2-pyrazolin-5-one | 1 mole, 218 g | C(=O)(O)C1=CC=C(C=C1)N1N=C(CC1=O)C | C11H10N2O3
reactant | salicyladehyde | 1 mole, 112 g | C=1C=CC(=C(C1)C=O)O | C7H6O2
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | 1-(p-carboxyphenyl)-3-methyl-4-(o-hydroxybenzylidene)-2-pyrazolin-5-one | C(=O)(O)C1=CC=C(C=C1)N1N=C(C(C1=O)=CC1=C(C=CC=C1)O)C | C18H14N2O4
